US04886814
(a) N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one (Diastereomer B)
Prepared by analogy to Example 74a by reaction of N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine (diastereomer B), chloroacetyl chloride and sodium hydride, and purification of the base on a silica gel column using toluene/ethyl acetate=6:4 as eluant.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C18H21F3N2O4S
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydride | [H-].[Na+]
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1=O)C=1N=C(SC1)C(F)(F)F | C20H21F3N2O5S
